US06410482B1
Preparation of 5-(2-dimethylamino-1-azaethenyl)-2-methoxycarbonyl-benzenesulfonamide
A mixture of 2.13 g of N-tert-butyl-2-methoxycarbonyl-5-(2-dimethylamino-1-azaethenyl)benzenesulfonamide and 20 ml of trifluoroacetic acid is stirred at room temperature until the reaction has ended. The volatile components are then distilled off under reduced pressure. The residue is washed with diisopropyl ether and then with NaHCO3 solution. This affords 1.77 g of the desired compound.

reactant | N-tert-butyl-2-methoxycarbonyl-5-(2-dimethylamino-1-azaethenyl)benzenesulfonamide | 2.13 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)N=CN(C)C)C(=O)OC | C15H23N3O4S
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(2-dimethylamino-1-azaethenyl)-2-methoxycarbonyl-benzenesulfonamide | CN(C=NC=1C=CC(=C(C1)S(=O)(=O)N)C(=O)OC)C | C11H15N3O4S
